US04956382
(A) 2-Chloromethyl-5-nitrobenzo[b]thiophene
Thionyl chloride (1.0 ml) was added dropwise to a stirred mixture of 5-nitrobenzo[b]thiophene-2-methanol (1.0 g) and pyridine (2 drops) in dichloromethane (10 ml). The solution was stirred at room temperature for 4 hours and then washed with water followed by aqueous sodium bicarbonate solution, and then dried (Na2SO4). The solvent was evaporated and the residue was chromatographed on silica gel. Elution with dichloromethane gave a solid which was crystallised from ethyl acetate to give the title compound (0.73 g), m.p. 110°-112°, used directly in the next stage.

reactant | Thionyl chloride | 1.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 5-nitrobenzo[b]thiophene-2-methanol | 1.0 g | [N+](=O)([O-])C1=CC2=C(SC(=C2)CO)C=C1 | C9H7NO3S
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Chloromethyl-5-nitrobenzo[b]thiophene | 0.73 g | ClCC1=CC2=C(S1)C=CC(=C2)[N+](=O)[O-] | C9H6ClNO2S
